US06316482B1
To a mixture of 10% palladium on charcoal (130 mg) in 5.0% formic acid-methanol (5.0 ml) was added a solution of benzyl 1-tert-butoxycarbonyl-2-ethoxycarbonylindole-4-carboxylate (130 mg) in 5.0% formic acid-methanol (5.0 ml). The mixture was stirred under nitrogen atmosphere at ambient temperature for 30 minutes. The resulting mixture was filtered through a bed of celite and the filtrate was evaporated in vacuo to give 1-tert-butoxycarbonyl-2-ethoxycarbonylindole-4-carboxylic acid (87 mg) as a white crystal.

reactant | benzyl 1-tert-butoxycarbonyl-2-ethoxycarbonylindole-4-carboxylate | 130 mg | C(C)(C)(C)OC(=O)N1C(=CC=2C(=CC=CC12)C(=O)OCC1=CC=CC=C1)C(=O)OCC | C24H25NO6
catalyst | palladium on charcoal | 130 mg | [Pd] | Pd
solvent | formic acid methanol | 5.0 ml | C(=O)O.CO
solvent | formic acid methanol | 5.0 ml | C(=O)O.CO
product | 1-tert-butoxycarbonyl-2-ethoxycarbonylindole-4-carboxylic acid | 87 mg | C(C)(C)(C)OC(=O)N1C(=CC=2C(=CC=CC12)C(=O)O)C(=O)OCC | C17H19NO6
